US07598254B2
4-Methoxymethoxyphenol
A mixture of 60% sodium hydride (1.80 g, 45.0 mmol) and dry THF (20 mL) was cooled to −20° C. After addition of a solution of hydroquinone (2.00 g, 18.2 mmol) in THF (30 mL), the mixture was stirred at room temperature for one hour and then cooled again to −20° C. After dropwise addition of chloromethyl methyl ether (1.3 mL, 18.0 mmol), the cooled mixture was slowly warmed to 10° C., stirred at room temperature for one hour, and poured onto ice pieces (500 g). To the resulting mixture was added 3 mol/L aqueous hydrochloric acid until the mixture reached pH 4-5. Subsequently, the mixture was subjected to extraction with dichloromethane (100 mL×2). The extract was washed with water (100 mL×2) and saturated aqueous sodium chloride (100 mL), dried over anhydrous sodium sulfate, and placed under reduced pressure to distill the solvent off. The residue was purified by silica gel column chromatography (ethyl acetate/hexane), to obtain 581 mg (yield 21%) of the titled compound as pale yellow oil.

reactant | sodium hydride | 45.0 mmol, 1.80 g | [H-].[Na+]
reactant | hydroquinone | 18.2 mmol, 2.00 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | chloromethyl methyl ether | 18.0 mmol, 1.3 mL | COCCl | C2H5ClO
reactant | hydrochloric acid | 3 mol/L | Cl | ClH
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-Methoxymethoxyphenol | 581 mg, yield 21% | COCOC1=CC=C(C=C1)O | C8H10O3
